US04161538
2-[4-(2-Hydroxyiminocyclohexan-1-ylmethyl)phenyl]propionic Acid
Three grams of ethyl 2-[4-(2-hydroxyiminocyclohexan-1-ylmethyl)phenyl]propionate and 0.8 g of sodium hydroxide were dissolved in 50 ml of methanol and the solution was allowed to stand at room temperature overnight. To the reaction mixture was added 20 ml of water, methanol was removed by distillation and the residue was acidified with hydrochloric acid to precipitate crystals, which were collected by filtration and recrystallized from a mixture of ether and n-hexane affording 2.1 g of colorless crystals, m.p. 148°-150° C.

reactant | ethyl 2-[4-(2-hydroxyiminocyclohexan-1-ylmethyl)phenyl]propionate | Three grams | ON=C1C(CCCC1)CC1=CC=C(C=C1)C(C(=O)OCC)C | C18H25NO3
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2-[4-(2-Hydroxyiminocyclohexan-1-ylmethyl)phenyl]propionic Acid | ON=C1C(CCCC1)CC1=CC=C(C=C1)C(C(=O)O)C | C16H21NO3
